US04087522
[(t-Butylcarbamoyl)methyl]phosphonic acid (VII)
Tertiary butyl amine (0.045 mole) and dimethyl (carboxymethyl)phosphonate (0.04 mole) were dissolved in 100 ml. of methylene chloride. As the solution was stirred, dicyclohexylcarbodiimide was added portionwise. The solution was stirred overnight and the mixture filtered. The filtrate was concentrated to a solid. It was recrystallized from an appropriate solvent such as methanol. m.p. 163°-5° C., yield, 61%.

reactant | Tertiary butyl amine | 0.045 mole | C(C)(C)(C)N | C4H11N
reactant | dimethyl (carboxymethyl)phosphonate | 0.04 mole | C(=O)(O)CP(OC)(OC)=O | C4H9O5P
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [(t-Butylcarbamoyl)methyl]phosphonic acid | C(C)(C)(C)NC(=O)CP(O)(O)=O | C6H14NO4P
